US08633186B2
2-Amino-6-hydroxybenzonitrile
A solution of 2-methoxy-6-nitrobenzonitrile (Example 1290 (1.11 g, 6.76 mmol) in EtOH (120 mL) was hydrogenated over a catalytic amount of 10% Pd/C (0.15 g) at room temperature under hydrogen (1 atm). After 2 h, the mixture was filtered and the catalyst was washed with EtOAc (150 mL). The combined extract was evaporated, to give 1.11 g (100%) of the title compound as a brown solid. The crude product was used in the next step without further purification. 1H NMR (400 MHz, DMSO-d6) δ 10.39 (broad s, 1H), 7.00 (t, J=8.0 Hz, 1H), 6.12-6.17 (m, 1H), 6.01-6.05 (m, 1H), 5.77 (broad s, 2H).

reactant | 2-methoxy-6-nitrobenzonitrile | COC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C8H6N2O3
solvent | EtOH | 120 mL | CCO | C2H6O
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | 2-Amino-6-hydroxybenzonitrile | 1.11 g, 100% | NC1=C(C#N)C(=CC=C1)O | C7H6N2O
